US06114163
Preparation of N-Acetyl-D,L-methionine
Different quantities of D,L-methionine were dissolved in 100 ml acetic acid the solution warmed in an oil bath and 1.1 equivalence of acetic anhydride were added. After 5 minutes the components were concentrated under vacuum at 100° C. bath temperature. The content of N-Acetyl-D,L-methionyl-D,L-methionine (Ac-Met-Met) was determined by HPLC. the results of these experiments are set forth in the following table.

reactant | D,L-methionine | NC(CCSC)C(=O)O | C5H11NO2S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | N-Acetyl-D,L-methionine | C(C)(=O)NC(CCSC)C(=O)O | C7H13NO3S
